US07939524B2
1) (1S,2R,3S,4R)-3-(4-Fluorobenzylamino)-bicyclo[2.2.1]heptane-2-carboxylic Acid Ethyl Ester
To a solution of (1S,2R,3S,4R)-3-amino-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester (1.15 g, 6.28 mmol) in ethanol (30 mL) was added 4-fluorobenzaldehyde (0.68 mL, 6.31 mmol), glacial acetic acid (0.4 mL, 6.99 mmol), and sodium cyanoborohydride (1.04 g, 15.7 mmol) at 25° C. After stirring for 3 h, the mixture was diluted with ethyl acetate (50 mL) and quenched with saturated aqueous sodium bicarbonate solution (50 mL) for 0.5 h. The mixture was filtered through Celite. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). When all solvent was removed, a solid was formed. The solid was filtered, washed with water, and dried in vacuo to afford the desired product, (1S,2R,3S,4R)-3-(4-fluorobenzylamino)-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester (1.74 g, 5.97 mmol, 95%), as a white solid. 1H NMR (400 MHz, CDCl3) δ 1.05-1.16 (2H, m), 1.21 (1H, dt, J1=8.0 Hz, J2=1.6 Hz), 1.27 (3H, t, J=7.4 Hz), 1.45-1.61 (2H, m), 1.94 (1H, dt, J1=10.1 Hz, J2=1.9 Hz), 2.28 (1H, d, J=3.9 Hz), 2.43 (1H, d, J=3.3 Hz), 2.60 (1H, dd, J1=8.8 Hz, J2=1.5 Hz), 2.94 (1H, d, J=7.8 Hz), 3.66 (1H, d, J=13.2 Hz), 3.80 (1H, d, J=13.5 Hz), 4.13 (2H, q, J=7.0 Hz), 6.97 (2H, t, J=8.5 Hz), 7.26 (2H, t, J=7.1 Hz).

reactant | (1S,2R,3S,4R)-3-amino-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | 6.28 mmol, 1.15 g | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1N)C2 | C10H17NO2
reactant | 4-fluorobenzaldehyde | 6.31 mmol, 0.68 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 6.99 mmol, 0.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 15.7 mmol, 1.04 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2R,3S,4R)-3-(4-fluorobenzylamino)-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | 5.97 mmol, 1.74 g, 95% | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1NCC1=CC=C(C=C1)F)C2 | C17H22FNO2
